US09210927B2
Step 3. (E)-5-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)indolin-1-amine (BI14)
To (E)-5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1-nitrosoindoline (0.1 g, 0.2 mmol) in MeOH(10.0 mL) was added zinc powder (77.5 mg) and NH4Cl (36.9 mg, 0.69 mmol) in water (2.0 mL). The reaction mixture was stirred at ambient temperature for 3 h. The reaction mixture was diluted with CH2Cl2 and the CH2Cl2 layer was washed with water and brine solution. The separated CH2Cl2 layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford the crude compound, which was purified by column chromatography (SiO2, 100-200 mesh; eluting with 2% ethyl acetate/petroleum ether) to afford the title compound as a light brown gummy material (0.08 g): ESIMS m/z 404.86 ([M+H]+).

reactant | (E)-5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1-nitrosoindoline | 0.2 mmol, 0.1 g | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2CCN(C2=CC1)N=O)C(F)(F)F | C18H12Cl2F4N2O
reactant | NH4Cl | 0.69 mmol, 36.9 mg | [NH4+].[Cl-]
solvent | MeOH | 10.0 mL | CO | CH4O
solvent | water | 2.0 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | zinc | 77.5 mg | [Zn] | Zn
product | (E)-5-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)indolin-1-amine | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2CCN(C2=CC1)N)C(F)(F)F | C18H14Cl2F4N2
